data/rdb19/train.csv
rxn,smiles,ea
895,[C:19]([C:20]([C:21]([H:22])[H:23])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20](=[C:21]([H:22])[H:23])[O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]=[O:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:7]([H:17])([H:18])[H:31],51.48465855396353
4621,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22][H:27])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[H:28])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12],26.764043000293896
3731,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:28])([H:10])[H:11])([H:7])([H:8])[H:9],23.243967865942977
4155,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21](=[O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:26])([H:27])[H:28]>>[C:1]([C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[H:12])([H:9])([H:10])[H:11].[H:13][C:25]([C:24]([O:23][C:21]([C:20]([H:26])([H:27])[H:28])=[O:22])[H:29])([H:30])[H:31],34.66197205486242
4905,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22][c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])([O:5][C:6]([H:12])([H:13])[H:14])[H:36])([H:10])[H:11])([H:7])([H:8])[H:9],29.33915042056469
444,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:19])([H:20])[H:21])([O:11][C:12]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([O:2][O:3][C:9]([C:8]([C:7]([H:13])([H:14])[H:15])([H:16])[H:17])([C:10]([H:19])([H:20])[H:21])[H:18])([H:4])([H:5])[H:6].[O:11][C:12]([H:22])([H:23])[H:24],67.15697874908801
3950,[C:11]([H:12])([H:13])[H:14].[O:1]([C:2]([C:3]([S:4][H:10])([H:8])[H:9])([H:6])[H:7])[H:5]>>[H:10][C:11]([H:12])([H:13])[H:14].[O:1]([C:2]([C:3]([S:4])([H:8])[H:9])([H:6])[H:7])[H:5],9.42297647916712
2786,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[H:33])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25][c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29],31.3581429462065
4962,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:19](=[C:20]([H:25])[H:26])[H:24].[C:1]([C:2]([C:3]([H:4])([O:5][C:6]([H:12])([H:13])[H:14])[O:18][C:16]([C:15]([H:21])([H:22])[H:23])=[O:17])([H:10])[H:11])([H:7])([H:8])[H:9],64.53238516574493
5055,[C:11]([C:12]([C:13]([H:14])[O:15][C:16](=[O:17])[C:18]([H:24])([H:25])[H:26])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([O:2][C:3](=[C:4][H:10])[H:8])([H:5])([H:6])[H:7].[H:9][C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([H:22])[H:23])([H:14])[O:15][C:16](=[O:17])[C:18]([H:24])([H:25])[H:26],29.421050676319283
5442,[C:19]([C:20]([C:21]([H:22])[H:23])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])[H:11])([H:8])([H:9])[H:10].[H:12][C:21]([C:20]([C:19]([H:28])([H:29])[H:30])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:22])[H:23],20.249054233019702
